US03957860
1 mol of 1-amino-3-methyl-4-nitrobenzene, 1,000 ml of one of the solvents indicated below, 198 g of sulphamic acid and the % by volume of catalyst indicated below are reacted analogously to Example 2. The yields of 1-amino-3-methyl-4-nitrobenzene-6-sulphonic acid obtained, and the reaction temperatures are indicated in the table which follows:

reactant | 1-amino-3-methyl-4-nitrobenzene | 1 mol | NC1=CC(=C(C=C1)[N+](=O)[O-])C | C7H8N2O2
reactant | sulphamic acid | 198 g | S(N)(O)(=O)=O | H3NO3S
product | 1-amino-3-methyl-4-nitrobenzene-6-sulphonic acid | NC1=CC(=C(C=C1S(=O)(=O)O)[N+](=O)[O-])C | C7H8N2O5S
